US04022897
To 35.2 g of 9-hydroxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one suspended in 100 ml of absolute ethanol is added a solution of 11.0 g of sodium methoxide in 165 ml of absolute ethanol. To this is then added 50.0 g o-bromobenzyl bromide dissolved in 25 ml of absolute ethanol. The mixture is then heated under reflux for about 6 hours and worked up to give 9-[(o-bromobenzyl)oxy]-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one, m.p. 144°-146°, after recrystallization from ethyl acetate.

reactant | 9-hydroxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 35.2 g | OC1=CC=CN2C1=NC(=CC2=O)C | C9H8N2O2
reactant | sodium methoxide | 11.0 g | C[O-].[Na+]
reactant | o-bromobenzyl bromide | 50.0 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 165 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 9-[(o-bromobenzyl)oxy]-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one | BrC1=C(COC2=CC=CN3C2=NC(=CC3=O)C)C=CC=C1 | C16H13BrN2O2
